US05763450
13bk) 49.4 g of 4-bromo-2-chloro-benzoic acid were suspended in 60 ml of hexane, treated with 0.2 ml of N,N-dimethylformamide and 18.5 ml of thionyl chloride and boiled at reflux under argon for 15 hrs. The resulting solution was cooled to room temperature, filtered, evaporated and the residue was again evaporated with 60 ml of toluene. There were obtained 53 g (99%) of 4-bromo-2-chloro-benzoylchloride as a crude oil which crystallized upon standing, but which was used directly in the next step without further manipulation.

reactant | 4-bromo-2-chloro-benzoic acid | 49.4 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 18.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | 60 ml | CCCCCC | C6H14
product | 4-bromo-2-chloro-benzoylchloride | 53 g, 99% | BrC1=CC(=C(C(=O)Cl)C=C1)Cl | C7H3BrCl2O
